US08022062B2
9-Bromo-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Add dropwise bromine (10.8 mL, 0.21 mol) in acetonitrile (260 mL) to a slurry of 6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (51.8 g, 0.2 mol) in acetonitrile (400 mL) at 0° C. cooling with ice-water to keep the temperature between 2-5° C. Warm the reaction to ambient temperature and stir for 30 min. Pour the mixture into ice-cold water (2 L) to obtain a white precipitate. Collect the solid by vacuum filtration, wash with water and dry under vacuum at 105° C. Recrystallize the crude material in toluene/heptane and cool the mixture in an ice bath. Collect the solid by vacuum filtration, wash with heptane and dry under vacuum at 105° C. to obtain the desired intermediate as a white solid (54.63 g, 81%). MS (ES+) m/z: 338 (M+H)+.

reactant | bromine | 0.21 mol, 10.8 mL | BrBr | Br2
reactant | 6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.2 mol, 51.8 g | OC1=CC=CC=2CCN(CCC21)C(C(F)(F)F)=O | C12H12F3NO2
solvent | acetonitrile | 260 mL | C(C)#N | C2H3N
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
product | 9-Bromo-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 54.63 g, 81% | BrC1=CC=C(C2=C1CCN(CC2)C(C(F)(F)F)=O)O | C12H11BrF3NO2
